US07226941B2
Preparation of [5-(benzimidazol-1-yl)-furan-2-yl]-methanol
Benzimidazole is mixed with 5-bromo-furan-2-yl formaldehyde in the presence of CuI/N,N′-dimethylethylenediamine and cesium carbonate. The resulting [5-(benzimidazol-1-yl)-furan-2-yl]-formaldehyde is purified, then reduced to the title compound with sodium borohydride.

reactant | Benzimidazole | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | 5-bromo-furan-2-yl formaldehyde | BrC1=CC=C(O1)C=O | C5H3BrO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | CuI N,N′-dimethylethylenediamine | [Cu]I.CNCCNC
product | [5-(benzimidazol-1-yl)-furan-2-yl]-methanol | N1(C=NC2=C1C=CC=C2)C2=CC=C(O2)CO | C12H10N2O2
